US08110605B2
Reflux a solution of ethyl 2-(10-bromo-decyl)malonate (5.5 mmole) and thiourea (6.6 mmole) in 95% ethanol (25 mL) for 5 hours and then add an aqueous NaOH (2.0 M, 25 mL) and reflux for another 15 hours. Then, add an aqueous HCl (2.0 M) until the solution becomes acidic (approximately pH ˜2). Extract the reaction mixture with ether three times and wash and dry the combined organic layers with saturated NaCl solution with MgSO4. The product, 2-(10-mercaptodecyl)-propanedioic acid, can then be obtained by removal of solvent under reduced pressure.

reactant | ethyl 2-(10-bromo-decyl)malonate | 5.5 mmole | BrCCCCCCCCCCC(C(=O)OCC)C(=O)[O-]
reactant | thiourea | 6.6 mmole | NC(=S)N | CH4N2S
reactant | NaOH | 2.0 M, 25 mL | [OH-].[Na+]
reactant | HCl | 2.0 M | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(10-mercaptodecyl)-propanedioic acid | SCCCCCCCCCCC(C(=O)O)C(=O)O | C13H24O4S
